US05935972
7-[1,3]Dioxan-2-yl-5-ethynyl-benzofuran
A mixture of 7-[1,3]dioxan-2-yl-5-trimethylsilylethynyl-benzofuran (330 mg), and potassium carbonate (40 mg) in anhydrous methanol (10 ml) was stirred at room temperature for 1 h. The solvent was removed in vacuo, the residue treated with water (50 ml), and extracted with ether (3×75 ml). The combined organic extracts were washed with sodium hydroxide (50 ml; 2M), dried, and evaporated in vacuo to give the title compound as a brown oil (247 mg).

reactant | 7-[1,3]dioxan-2-yl-5-trimethylsilylethynyl-benzofuran | 330 mg | O1C(OCCC1)C1=CC(=CC=2C=COC21)C#C[Si](C)(C)C | C17H20O3Si
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 7-[1,3]Dioxan-2-yl-5-ethynyl-benzofuran | 247 mg | O1C(OCCC1)C1=CC(=CC=2C=COC21)C#C | C14H12O3
